US08377922B2
1-(c) Ethyl 8-[2-(imidazo[1,2-a]pyrimidin-2-yl)ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate
To 55 mL of a tetrahydrofuran solution containing 0.39 g (2.40 mmol) of 2-(imidazo[1,2-a]pyrimidin-2-yl)ethanol obtained in Example 1-(b) were added 0.69 g (2.00 mmol) of ethyl 8-hydroxy-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate (see WO 98/14192 A) and 0.74 g (2.80 mmol) of triphenyl-phosphine, and the mixture was stirred under ice-cooling. Then, 2.6 mL of a tetra-hydrofuran solution containing 0.53 g (2.60 mmol) of diisopropyl azodicarboxylate was added dropwise to the mixture over 3 minutes, the mixture was gradually elevated to room temperature, and stirred for 14 hours.

reactant | 2-(imidazo[1,2-a]pyrimidin-2-yl)ethanol | 2.40 mmol, 0.39 g | N=1C(=CN2C1N=CC=C2)CCO | C8H9N3O
reactant | ethyl 8-hydroxy-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate | 2.00 mmol, 0.69 g | OC1=CC2=C(CC(C(N(C2)CC(F)(F)F)=O)CC(=O)OCC)C=C1 | C16H18F3NO4
reactant | triphenyl-phosphine | 2.80 mmol, 0.74 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.60 mmol, 0.53 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetra-hydrofuran | 2.6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
product | Ethyl 8-[2-(imidazo[1,2-a]pyrimidin-2-yl)ethoxy]-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate | N=1C(=CN2C1N=CC=C2)CCOC2=CC1=C(CC(C(N(C1)CC(F)(F)F)=O)CC(=O)OCC)C=C2 | C24H25F3N4O4
